US05840891
N-Benzyloxycarbonyl-L-valine, 437 mg (1.74 mmol, 3 equivalents), is suspended in dichloromethane, 1 mL, and 1,3-dicyclohexylcarbodiimide, 143 mg (0.7 mmol, 1.2 equivalents), is added. The mixture is stirred under nitrogen for 48 hours. The mixture is filtered through a glass fritte and the white solid residue washed with dichloromethane, 1 mL. The combined filtrate is stirred under nitrogen and a suspension of (R)-2-(2-amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-3-benzyloxy-propan-1-ol, 200 mg (0.58 mmol, 1 equivalent) in dimethylformamdie, 1.5 mL, is added followed by 4-dimethylaminopyridine, 18 mg (14.4 mmol, 0.25 equivalents). The mixture is stirred under nitrogen for 18 hours, poured into water, 12 mL, and extracted with a mixture of ethyl acetate (3.5 mL) and toluene (3.5 mL). The aqueous layer is separated and the organic layer washed with half saturated sodium bicarbonate, 6 mL, followed by water (2 mL). The organic layer is dried over magnesium sulfate and concentrated under reduced pressure. The residue is precipitated from a mixture of ethyl acetate and cyclohexane to give (S)-2-(2-amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy)-3-benzyloxy-1-propanyl N-(benzyloxycarbonyl)-L-valinate as a solid.

reactant | N-Benzyloxycarbonyl-L-valine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-benzyloxy-1-propanyl N-(benzyloxycarbonyl)-L-valinate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCCCOCC1=CC=CC=C1 | C23H29NO5
